US06329381B1
6-Amino-9-benzyl-2-(2-formylethylthio)-8-hydroxypurine
6-Amino-9-benzyl-2-[2-(1,3-dioxolan-2-yl)ethyl)thio-8-hydroxypurine (74 mg, 0.20 mmol) was dissolved in a mixture of 3.3N hydrochloric acid (1 ml) and tetrahydrofuran (4 ml). The solution was stirred at 70° C. for 7 hours and then neutralized with aqueous sodium hydrogen carbonate. After removal of tetrahydrofuran in vacuo, the resulting crystals were filtered, purified by silica gel chromatography (5% methanol/chloroform) to give the subject compound (17 mg, yield 44%).

reactant | 6-Amino-9-benzyl-2-[2-(1,3-dioxolan-2-yl)ethyl)thio-8-hydroxypurine | 0.20 mmol, 74 mg | NC1=C2N=C(N(C2=NC(=N1)SCCC1OCCO1)CC1=CC=CC=C1)O | C17H19N5O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 3.3N, 1 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 6-Amino-9-benzyl-2-(2-formylethylthio)-8-hydroxypurine | 17 mg, yield 44% | NC1=C2N=C(N(C2=NC(=N1)SCCC=O)CC1=CC=CC=C1)O | C15H15N5O2S
